US07101898B2
A solution of lithium hydroxide (78 mg, 3.7 mmol) in water (6 ml) was added to a solution of 5-(trifluoromethyl)benzofuran-2-carboxylic acid ethyl ester (705 mg, 2.73 mmol) in 1,4-dioxane (6 ml). 1,4-Dioxane was added until a clear solution was obtained. The reaction mixture was stirred for 16 h at room temperature. It was diluted with an 1 N aqueous solution of sodium hydroxide and washed with tert-butyl methyl ether (2×30 ml). The aqueous solution was acidified with a 10% aqueous solution of sodium hydrogen sulphate until pH 3 was obtained. It was extracted with ethyl acetate (3×40 ml). The combined ethyl acetate layers were dried over magnesium sulphate. The solvent was removed in vacuo to give crude 5-(trifluoromethyl)benzofuran-2-carboxylic acid which was used in the next step without further purification.

reactant | lithium hydroxide | 3.7 mmol, 78 mg | [OH-].[Li+]
reactant | 5-(trifluoromethyl)benzofuran-2-carboxylic acid ethyl ester | 2.73 mmol, 705 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C(F)(F)F | C12H9F3O3
solvent | water | 6 ml | O | H2O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-(trifluoromethyl)benzofuran-2-carboxylic acid | FC(C=1C=CC2=C(C=C(O2)C(=O)O)C1)(F)F | C10H5F3O3
